US06770761B2
Preparation of 2-acetamido-6-oxo-4,5,6,7-tetrahydrobenzothiazole hydrobromide [Compound (6), R=acetyl, R3+R4=oxo]
8.8 g of 1,4-cyclohexanedione was dissolved in 40 ml of methanol. The solution was cooled on an ice bath to 10° C. and 4.4 ml of bromine was added dropwise in 10 minutes. The solution was stirred at the same temperature for 1.5 hours and then the temperature was allowed to rise to ambient. After the colour disappeared, 11.1 g of N-acetylthiourea and 20 ml of water were added and the solution was heated under reflux for 2 hours. Hot reaction mixture was filtered, the filtration cake was washed with hot methanol and the combined filtrates were heated to reflux with activated charcoal. The hot suspension was filtered and the filtrate was concentrated in vacuo to yield 3.4 g of a solid product.

reactant | 1,4-cyclohexanedione | 8.8 g | C1(CCC(CC1)=O)=O | C6H8O2
reactant | bromine | 4.4 ml | BrBr | Br2
reactant | N-acetylthiourea | 11.1 g | C(C)(=O)NC(=S)N | C3H6N2OS
reactant | water | 20 ml | O | H2O
solvent | methanol | 40 ml | CO | CH4O
product | 2-acetamido-6-oxo-4,5,6,7-tetrahydrobenzothiazole hydrobromide | 3.4 g | Br.C(C)(=O)NC=1SC2=C(N1)CCC(C2)=O | InChI=1S/C9H10N2O2S.BrH/c1-5(12)10-9-11-7-3-2-6(13)4-8(7)14-9;/h2-4H2,1H3,(H,10,11,12);1H
